US06552013B1
Synthesis of 8-Phenylquinoline
A degassed solution of 8-bromoquinoline (1.0 g, 4.81 mmol) (Aldrich) in dioxane (50 mL)/H2O (10 mL) was treated with phenylboronic acic (0.64 g, 5.29 mmol) (Aldrich), Pd(Ph3P)4 (0.050 g, 0.04 mmol) and K2CO3 (0.73 g, 5.29 mmol). After refluxing for 4 hours under a N2 atmosphere the reaction was allowed to cool, diluted with EtOAc and separated. After drying over Na2SO4 and SiO2 chromatography (95:5 Hexanes/EtOAc) the titled compound was isolated as a colorless oil.

reactant | 8-bromoquinoline | 4.81 mmol, 1.0 g | BrC=1C=CC=C2C=CC=NC12 | C9H6BrN
reactant | H2O | 10 mL | O | H2O
reactant | acic | 5.29 mmol, 0.64 g | C1=NC2=C(N1COCCO)NC(=NC2=O)N | C8H11N5O3
reactant | K2CO3 | 5.29 mmol, 0.73 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(Ph3P)4 | 0.04 mmol, 0.050 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-Phenylquinoline | C1(=CC=CC=C1)C=1C=CC=C2C=CC=NC12 | C15H11N
